US05183820
6-Fluoro-2,3,4,5-tetrahydro-5-methyl-2-[(1,5-dimethyl-1H-imidazol-4-yl)methyl]-1H-pyrido[4,3-b]indol-1-one
A stirred solution of 6-fluoro-2,3,4,5-tetrahydro-5-methyl-2-[(5-methyl-1H-imidazol -4-yl)methyl]-1H-pyrido[4,3-b]indol-1-one (347 mg) in dry DMF was treated with sodium hydride (73% dispersion in oil; 49 mg) and stirred under nitrogen for 30 min. The reaction mixture was then cooled to 0° and iodomethane (217 mg) was added dropwise. The reaction mixture was then allowed to warm to room temperature, with stirring being continued for 2 h. DMF was removed in vacuo and the residue was dissolved in dichloromethane (75 ml) and washed with water (3×75 ml) and brine (2×50 ml). The combined aqueous washings were extracted with dichloromethane (2×50 ml) and the combined organic extracts were dried and concentrated in vacuo to give an oil. This was dissolved in dichloromethane and adsorbed onto silica. Purification by FCC eluting with System A (200:10:1) gave a solid which was triturated with ether and then dried in vacuo to give the title compound (62 mg), m.p. 174°-175°.

reactant | 6-fluoro-2,3,4,5-tetrahydro-5-methyl-2-[(5-methyl-1H-imidazol -4-yl)methyl]-1H-pyrido[4,3-b]indol-1-one | 347 mg | FC1=CC=CC=2C3=C(N(C12)C)CCN(C3=O)CC=3N=CNC3C | C17H17FN4O
reactant | sodium hydride | 49 mg | [H-].[Na+]
reactant | iodomethane | 217 mg | IC | CH3I
solvent | DMF | CN(C)C=O | C3H7NO
solvent | dichloromethane | ClCCl | CH2Cl2
product | 6-Fluoro-2,3,4,5-tetrahydro-5-methyl-2-[(1,5-dimethyl-1H-imidazol-4-yl)methyl]-1H-pyrido[4,3-b]indol-1-one | 62 mg | FC1=CC=CC=2C3=C(N(C12)C)CCN(C3=O)CC=3N=CN(C3C)C | C18H19FN4O
